US04058611
A suspension of dry sodium ethoxide (obtained from sodium; 12.7 g.) in anhydrous toluene (200 cc.) is prepared. This suspension is heated to a temperature of about 80° C. and a solution of ethyl 5,6-dimethylpyrazine-2-carboxylate (63 g.) in anhydrous ethyl acetate (104 g.) is added thereto over the course of 1 hour. After the end of the addition, the reaction mixture is heated under reflux for 4 hours and is then cooled to a temperature of about 20° C. and poured into water (1,600 cc.). An insoluble material is filtered off and the organic phase of the filtrate is separated off by decantation. The insoluble material is washed further with water (4 × 400 cc.) and the aqueous filtrates are subsequently used to extract the initial organic phase. The aqueous extracts are recombined, washed with methylene chloride (400 cc.) and then acidified to pH 4 by adding about 4N hydrochloric acid (72 cc.). An oily product separates out and is extracted with methylene chloride (4 × 400 cc.). The organic phases are combined, dried over sodium sulphate and then evaporated to dryness under reduced pressure. The residue obtained is dissolved in diethyl ether (80 cc.) and the cloudy solution obtained is treated with decolorising charcoal (2 g.), filtered and then evaporated to dryness under reduced pressure. Ethyl 3-(5,6-dimethylpyrazin-2-yl)-3-oxo-propionate (30 g.) is thus obtained in the form of an orange oil.

reactant | sodium ethoxide | 12.7 g | [O-]CC.[Na+]
reactant | ethyl 5,6-dimethylpyrazine-2-carboxylate | 63 g | CC=1N=CC(=NC1C)C(=O)OCC | C9H12N2O2
reactant | water | 1,600 cc | O | H2O
reactant | charcoal | 2 g | C | CH4
reactant | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 104 g | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 80 cc | C(C)OCC | C4H10O
product | Ethyl 3-(5,6-dimethylpyrazin-2-yl)-3-oxo-propionate | 30 g | CC=1N=CC(=NC1C)C(CC(=O)OCC)=O | C11H14N2O3
